US07696193B2
1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-5-methyl-2-pyrrolidinone (E250)
3-Cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) (294 mg, 0.7 mmol) 1.10 phenanthroline (38 mg, 0.2 mmol), 5-methyl-2-pyrrolidinone (139 mg 1.4 mmol) were dissolved in dioxane (2 ml). Copper(I) Iodide (39 mg, 0.2 mmol) and caesium carbonate (479 mg, 1.5 mmol) were added and the mixture heated in a microwave reactor at 175° C. for 15 minutes. The mixture was cooled and filtered through celite, washing through with dichloromethane. The filtrate was concentrated in vacuo and the crude material purified by column chromatography, eluting with dichloromethane through to a mixture of 0.880 ammonia:methanol:dichloromethane (1:9:90) to afford the title compound (137 mg); MS (ES+) m/e 392 [M+H]+.

reactant | 3-Cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.7 mmol, 294 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | phenanthroline | 0.2 mmol, 38 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | 5-methyl-2-pyrrolidinone | 1.4 mmol, 139 mg | CC1CCC(N1)=O | C5H9NO
reactant | caesium carbonate | 1.5 mmol, 479 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Copper(I) Iodide | 0.2 mmol, 39 mg | [Cu]I
product | 1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-5-methyl-2-pyrrolidinone | 137 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)N2C(CCC2C)=O | C24H29N3O2
